US09145415B2
To 2-(5-(4-(benzyloxy)-2-((3-fluorophenyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (J3, 69 mg), trifluoroacetic acid (1 mL) was added at room temperature, and the mixture was stirred overnight at the same temperature. The solvent was evaporated under reduced pressure, and then ethyl acetate and water were added to the mixture. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained solid matter was washed with diisopropyl ether, and then dried under reduced pressure to obtain 2-(5-(2-((3-fluorophenyl)amino)-4-hydroxypyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (J4, 62 mg) as pale pink solid.

reactant | 2-(5-(4-(benzyloxy)-2-((3-fluorophenyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 69 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1C#CCCCN1C(C2=CC=CC=C2C1=O)=O)NC1=CC(=CC=C1)F | C30H23FN4O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(5-(2-((3-fluorophenyl)amino)-4-hydroxypyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 62 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)O)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C23H17FN4O3
